US07622589B2
12B) Ethyl 2-methyl-2-[6-(trifluoromethyl)pyridin-3-yl]cyclopropanecarboxylate
A toluene (2 ml) solution of 5-isopropenyl-2-(trifluoromethyl)pyridine (219 mg, 1.17 mmol), Co(TPP) (26 mg, 0.039 mmol) and 1-methyl-1H-imidazole (320 mg, 3.9 mmol), ethyl diazoacetate (208 mg, 1.8 mmol) were treated in the same procedure as described in Example 2H. The crude residue (201 mg, 63% yield of the title compound as a black oil) was used in a further reaction without purification.

reactant | 5-isopropenyl-2-(trifluoromethyl)pyridine | 1.17 mmol, 219 mg | C(=C)(C)C=1C=CC(=NC1)C(F)(F)F | C9H8F3N
reactant | 1-methyl-1H-imidazole | 3.9 mmol, 320 mg | CN1C=NC=C1 | C4H6N2
reactant | ethyl diazoacetate | 1.8 mmol, 208 mg | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-methyl-2-[6-(trifluoromethyl)pyridin-3-yl]cyclopropanecarboxylate | 201 mg, 63% yield | CC1(C(C1)C(=O)OCC)C=1C=NC(=CC1)C(F)(F)F | C13H14F3NO2
